US04597902
2-[3-[(4-Chlorophenyl)sulfonyl]propyl]-1,3-dihydro-2H-isoindole-1,3-dione
A solution of 17.8 g (0.07 mole) of 1-chloro-3-(p-chlorophenylsulfonyl)propane and 15.2 g (0.082 mole) of potassium phthalimide in 300 ml of dimethylformamide was stirred at 90°-110° C. for 2 hr and then quenched in water. The mixture was extracted with methylene chloride and the methylene chloride layer dried over magnesium sulfate. Diethylether and hexane were added and the solution stored at 0° C. overnight. The crystalline product was recrystallized from methylene chloride diethyl ether to give a white crystalline product, m.p. 187.5°-188.5° C.

reactant | 1-chloro-3-(p-chlorophenylsulfonyl)propane | 0.07 mole, 17.8 g | ClCCCS(=O)(=O)C1=CC=C(C=C1)Cl | C9H10Cl2O2S
reactant | potassium phthalimide | 0.082 mole, 15.2 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 2-[3-[(4-Chlorophenyl)sulfonyl]propyl]-1,3-dihydro-2H-isoindole-1,3-dione | ClC1=CC=C(C=C1)S(=O)(=O)CCCN1C(C2=CC=CC=C2C1=O)=O | C17H14ClNO4S
